US04684653
2-Amino-4-hydroxy-6-[2-(4-carboxyphenyl)ethenyl]pyrido[2,3-d]pyrimidine
A suspension of 1.0 g of 2,4-diamino-6-[2-(4-carboxyphenyl)ethenyl]pyrido[2,3-d]pyrimidine in 30 mL of 1N aqueous sodium hydroxide was heated under reflux under nitrogen for 3 hours. The resulting homogeneous orange solution was cooled to room temperature, acidified with 6 mL of glacial acetic acid, and the resulting yellow precipitate collected by filtration. The filter cake was washed successively with water, methanol, acetone and ether and was then dried under reduced pressure to give 0.88 g (88%) of the title compound, which can be alternatively named as either 6-[2-(4-carboxyphenyl)ethenyl]-5-deazapterin or 6-(4-carboxystyryl)-5-deazapterin, as a microcrystalline yellow powder, mp >250° C.; NMR (TFA-d1 delta 6.8, 7.25 (AB q, 2H, J=12 Hz), 7.45, 8.2 (AB q, 4H, J=9 Hz), 8.55 (s, 1H), 8.85 (s, 1H); IR (Nujol) 3500-2500 (br), 1670, 1625, 1600 cm-1.

reactant | 2,4-diamino-6-[2-(4-carboxyphenyl)ethenyl]pyrido[2,3-d]pyrimidine | 1.0 g | NC=1N=C(C2=C(N1)N=CC(=C2)C=CC2=CC=C(C=C2)C(=O)O)N | C16H13N5O2
reactant | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 1N, 30 mL | [OH-].[Na+]
product | 2-Amino-4-hydroxy-6-[2-(4-carboxyphenyl)ethenyl]pyrido[2,3-d]pyrimidine | 0.88 g, 88% | NC=1N=C(C2=C(N1)N=CC(=C2)C=CC2=CC=C(C=C2)C(=O)O)O | C16H12N4O3
